US07902201B2
c) (3-Pyridin-2-yl-isoxazol-4-yl)-methanol
As described for example 13e, 3-pyridin-2-yl-isoxazole-4-carboxylic acid (39.0 g, 200 mmol) was converted, instead of 3-(4-fluoro-phenyl)-isoxazole-4-carboxylic acid, to the title compound (26.8 g, 76%) which was obtained as a white solid. MS: m/e=177.2 [M]+.

reactant | 3-pyridin-2-yl-isoxazole-4-carboxylic acid | 200 mmol, 39.0 g | N1=C(C=CC=C1)C1=NOC=C1C(=O)O | C9H6N2O3
reactant | 3-(4-fluoro-phenyl)-isoxazole-4-carboxylic acid | FC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C10H6FNO3
product | (3-Pyridin-2-yl-isoxazol-4-yl)-methanol | 26.8 g, 76% | N1=C(C=CC=C1)C1=NOC=C1CO | C9H8N2O2
